* File: nand2.pex.sp.pex
* Created: Tue Apr 15 11:58:04 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2%OUT 1 2 7 11 17 21 31 35 39 40 41
c51 40 0 1.92439e-20
c52 35 0 1.22651e-19
c53 31 0 1.29841e-19
c54 17 0 1.4412e-19
c55 7 0 0.00480106f
r56 41 45 0.186663
r57 35 37 0.388606
r58 33 40 0.0371092
r59 33 35 0.389577
r60 31 45 1.7
r61 29 40 0.0371092
r62 29 31 0.260366
r63 27 28 0.164334
r64 26 27 0.296312
r65 25 26 0.0844817
r66 24 25 0.0518984
r67 23 24 0.121515
r68 22 39 0.00964403
r69 22 23 0.17293
r70 21 40 0.00964403
r71 21 28 0.399293
r72 17 19 0.388606
r73 15 39 0.0371092
r74 15 17 0.389577
r75 13 14 0.334384
r76 11 13 0.62857
r77 9 39 0.0371092
r78 9 14 0.149613
r79 7 11 10
r80 2 37 15
r81 2 35 10
r82 1 19 15
r83 1 17 10
.ends

.subckt PM_NAND2%GND! 2 10 12 13 18
c24 18 0 0.0140885f
c25 10 0 0.00217345f
c26 2 0 0.00229308f
r27 16 21 0.0289111
r28 16 18 1.12113
r29 13 21 0.0213429
r30 12 13 0.478797
r31 10 18 10
r32 2 21 30
.ends

.subckt PM_NAND2%VDD! 2 9 13 18 26
r26 22 26 0.0291575
r27 18 21 0.388606
r28 16 26 0.016797
r29 16 21 1.42618
r30 13 22 0.155442
r31 9 21 15
r32 9 18 10
r33 2 26 30
.ends

.subckt PM_NAND2%INA 1 2 6 14 15 18 23
c33 23 0 1.30517e-19
c34 18 0 3.45393e-20
c35 14 0 2.6655e-19
c36 2 0 1.4412e-19
r37 23 27 0.186663
r38 18 27 1.7
r39 18 21 0.00502177
r40 14 21 25
r41 14 16 7.68531
r42 14 15 7.75092
r43 6 16 33.978
r44 4 15 39.7386
r45 2 6 46.5732
r46 1 4 27.3386
.ends

.subckt PM_NAND2%INB 1 2 6 14 15 18 23
c36 23 0 1.26587e-19
c37 18 0 3.45393e-20
c38 14 0 3.68555e-19
c39 2 0 1.22651e-19
r40 23 27 0.186663
r41 18 27 1.7
r42 18 21 0.00485757
r43 14 21 25
r44 14 16 7.68531
r45 14 15 7.75092
r46 6 16 33.978
r47 4 15 39.7386
r48 2 6 46.5732
r49 1 4 27.3386
.ends

